US04840943
A mixture of 6β-bromo-1,2β-methylenandrost-4-ene-3,17-dione (378 mg, 1 mmol), sodium azide (66 mg, 1 mmol) and dimethylformamide (10 ml) is heated from 20° to 100° C. Then the reaction mixture is cooled, poured onto ice water and extracted with ethyl acetate. The organic layer is separated, washed with water, dried and evaporated in vacuo. Purification is achieved by column chromatography over silica gel eluting with benzene/ether to yield pure 6α-azido-1,2β-methylenandrost-4-ene-3,17-dione (238 mg, 70%). Found: C 70.61, H 7.35, N 12.27. C20H25N3O2 requires: C 70.77, H 7.12, N, 12.38.

reactant | 6β-bromo-1,2β-methylenandrost-4-ene-3,17-dione | 1 mmol, 378 mg | Br[C@@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(C3[C@@H](C(C=C12)=O)C3)C)=O | C20H25BrO2
reactant | sodium azide | 1 mmol, 66 mg | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6α-azido-1,2β-methylenandrost-4-ene-3,17-dione | 238 mg, 70% | N(=[N+]=[N-])[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(C3[C@@H](C(C=C12)=O)C3)C)=O | C20H25N3O2
